US04232035
2-[[O-[N-Methyl-N-(cyclohexylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one was prepared according to the procedure described in Example X by reacting 3.48 g (0.02 m) of 3,5,5-trimethyl-2-oximino thiazolidin-4-one with 4.47 g (0.02 m) of N-methyl-N-(cyclohexylthiosulfenyl) carbamoyl fluoride and 1.32 g (0.02 m) of potassium hydroxide. Weight of 2-[[O-[N-methyl-N-(cyclohexylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one produced was 3.1 g. m.p. 86°-88° C.

reactant | 3,5,5-trimethyl-2-oximino thiazolidin-4-one | 3.48 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | N-methyl-N-(cyclohexylthiosulfenyl) carbamoyl fluoride | 4.47 g | CN(C(=O)F)SSC1CCCCC1 | C8H14FNOS2
reactant | potassium hydroxide | 1.32 g | [OH-].[K+]
product | 2-[[O-[N-methyl-N-(cyclohexylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SSC1CCCCC1 | C14H23N3O3S3
